US06831080B2
Preparation of 2,3-dihydro-5-[1-(hydroxyimino)ethyl]-1H-indole-1-carboxylic acid, methyl ester
A mixture of 5-acetyl-2,3-dihydroindole-1-carboxylic acid methyl ester, Preparation 18 (6.57 g, 30 mmol), triethylamine (6.06 g, 60 mmol), and ammonium hydroxide hydrochloride (4.2 g, 60 mmol) in ethanol (80 mL) was stirred under reflux for 16 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was extracted with CH2Cl2 (1×60 mL), and the organic layer was dried over anhydrous magnesium sulfate, filtered, and the resultant filtrate was concentrated in vacuo. The crude material was purified by flash column chromatography on silica eluting with ethyl acetate/hexane (30%) to provide the title product (6.3 g, 90%) as a solid.

reactant | 5-acetyl-2,3-dihydroindole-1-carboxylic acid methyl ester | COC(=O)N1CCC2=CC(=CC=C12)C(C)=O | C12H13NO3
reactant | triethylamine | 60 mmol, 6.06 g | C(C)N(CC)CC | C6H15N
reactant | ammonium hydroxide hydrochloride | 60 mmol, 4.2 g | Cl.[OH-].[NH4+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 2,3-dihydro-5-[1-(hydroxyimino)ethyl]-1H-indole-1-carboxylic acid, methyl ester | 6.3 g, 90% | ON=C(C)C=1C=C2CCN(C2=CC1)C(=O)OC | C12H14N2O3
